US06852726B2
To a solution of 6-methoxy-3-thiocyanato-1H-indole (0.336 g, 1.64 mmole) and methyl iodide (0.700 g, 4.93 mmole) in methanol (10 ml) was added potassium hydroxide solution (0.164 ml, 10N) at 0° C. The reaction mixture was stirred for 1 h at room temperature. Silica gel (5 g) was added to the reaction mixture and the solvent was removed under reduced pressure. The residue was purified on a column of silica gel, eluting the product with mixtures of ethyl acetate:hexane (1:9 to 1:1). The first product which was eluted was the desired 6-methoxy-3-methylsulfanyl-1H-indole (0.120 g, 37% yield) followed by 6-methoxy-1H-indole-3-thiol (0.126 g). Step 3

reactant | 6-methoxy-3-thiocyanato-1H-indole | 1.64 mmole, 0.336 g | COC1=CC=C2C(=CNC2=C1)SC#N | C10H8N2OS
reactant | methyl iodide | 4.93 mmole, 0.700 g | CI | CH3I
reactant | potassium hydroxide | 10N, 0.164 ml | [OH-].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | 6-methoxy-3-methylsulfanyl-1H-indole | 0.120 g, 37% yield | COC1=CC=C2C(=CNC2=C1)SC | C10H11NOS
